US06624158B2
(2R,3R,4R,5S)-4,5-bis(Acetoxy)-2-(5-ethyl-1,2,4-oxadiazol-3-yl)tetrahydro-3-furanyl acetate
Acetic acid (1.0 ml, 17.5 mmol), acetic anhydride (1.65 ml, 17.5 mmol) and concentrated sulphuric acid (1 drop) were added to a solution of (2R,3S,4R,5R)-2-(5-ethyl-1,2,4-oxadiazol-3-yl)-5-methoxytetrahydro-3,4-furandiol and (2R,3S,4R,5S)-2-(5-ethyl-1,2,4-oxadiazol-3-yl)-5-methoxytetrahydro-3,4-furandiol (Preparation 37) (0.675 g, 2.93 mmol) in dichloromethane (15 ml) and the solution was heated under reflux for 12 hours. The cooled reaction mixture was then diluted with diethyl ether (30 ml) and water (20 ml). Solid sodium hydrogencarbonate was added to neutralise the solution and the organic layer was separated. The aqueous layer was extracted with more diethyl ether (50 ml) and the combined organic extracts were dried (anhydrous magnesium sulphate) and evaporated under reduced pressure. The semi-crystalline residue was triturated with a mixture of diethyl ether and pentane and the solid was filtered off and dried (0.56 g).

reactant | Acetic acid | 17.5 mmol, 1.0 ml | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 17.5 mmol, 1.65 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (2R,3S,4R,5R)-2-(5-ethyl-1,2,4-oxadiazol-3-yl)-5-methoxytetrahydro-3,4-furandiol | C(C)C1=NC(=NO1)[C@H]1O[C@H]([C@@H]([C@@H]1O)O)OC | C9H14N2O5
reactant | (2R,3S,4R,5S)-2-(5-ethyl-1,2,4-oxadiazol-3-yl)-5-methoxytetrahydro-3,4-furandiol | 2.93 mmol, 0.675 g | C(C)C1=NC(=NO1)[C@H]1O[C@@H]([C@@H]([C@@H]1O)O)OC | C9H14N2O5
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | sulphuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | water | 20 ml | O | H2O
product | (2R,3R,4R,5S)-4,5-bis(Acetoxy)-2-(5-ethyl-1,2,4-oxadiazol-3-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)OC(C)=O)C1=NOC(=N1)CC | C14H18N2O8
